US04800201
2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin- 3(4H)-one
m-Chloroperbenzoic acid (8.97 g, 70% purity) was added to a solution of 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (5.0 g) in dichloromethane (120 ml) under ice/water-cooling and the mixture was stirred for 10 minutes under ice/water-cooling. The mixture was washed with saturated sodium bicarbonate aqueous solution (2 times) and successively with water (1 time) and was dried over magnsium sulfate. The solvent was removed under reduced pressure and the residue was recrystallized from ether-petrolem ether to give the titled compound (3.29 g, yield 37.6%) as pale yellow needles.

reactant | m-Chloroperbenzoic acid | 8.97 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 5.0 g | CC=1NC(CSC1C1=CC=NC=C1)=O | C10H10N2OS
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2-(3-chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin- 3(4H)-one | 3.29 g, yield 37.6% | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
